US09062032B2
A mixture of 22.2 g of 2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylic acid and 230 mL of toluene was heated at 60° C., and 20 mL of thionyl chloride was added thereto, followed by stirring for 1 hour at 60° C. The insoluble material was collected by filtration and washed with toluene. A saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added to the material collected by filtration, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was washed with ethanol, thereby obtaining 18.9 g of 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one.

reactant | 2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylic acid | 22.2 g | N1(CCOCC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)O)CCCC3)C=CC1 | C21H24N2O4S
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 230 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one | 18.9 g | N1(CCOCC1)CC=1C=C(C=CC1)C=1OC(C2=C(N1)SC1=C2CCCC1)=O | C21H22N2O3S
